US06130339
A solution of 1-(2-thienyl)-4-nitrobenzene (1.65 g, 8.05 mmol) in 95% ethanol (210 mL) containing platinum on sulfide carbon (50 mg) was added hydrazine hydrate (0.5 mL). The mixture was refluxed for 2 hours. After cooling, the mixture was filtered and the solvent was evaporated to give a solid. Addition of hexane followed by filtration gave pure 1-(2-thienyl)-4-aminobenzene, yield=98%, 70-72° C. IR (KBr, in cm-1) 3440, 3344, 3098, 1620, 1500, 1281, 1183 and 813. 1H NMR (CDCl3 ; δ in ppm): 3.978 (brs, 2H), 6.670 (d, J=9.6 Hz, 2H), 7.011 (dd, J=5.6 and 4.4 Hz, 1H), 7.139 (m, 2H) and 7.382 (d, J=9.6 Hz, 2H). 13C NMR (CDCl3 ; δ in ppm): 115.07, 120.95, 122.82, 124.40, 126.91, 127.77, 144.77 and 146.46. MS(EI) m/z (rel int): 175 [(M)+, 100%], 143 [(M+ --S), 10%] and 130 [(M+ --HCS), 57%]. Anal. Calcd for C10H9NS: C, 68.53%; H 5.18; N 7.99. Found: C, 68.50; H, 5.21; N, 7.74.

reactant | 1-(2-thienyl)-4-nitrobenzene | 8.05 mmol, 1.65 g | S1C(=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H7NO2S
reactant | hydrazine hydrate | 0.5 mL | O.NN
reactant | hexane | CCCCCC | C6H14
solvent | ethanol | 210 mL | C(C)O | C2H6O
catalyst | platinum | [Pt] | Pt
product | 1-(2-thienyl)-4-aminobenzene | yield=98% | S1C(=CC=C1)C1=CC=C(C=C1)N | C10H9NS
